US08012976B2
8-(4-Fluorophenyl)-9-(thiazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one
A mixture of ethyl 2-(4-fluorophenyl)-4-oxo-3-(thiazol-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate (180 mg) in 85% hydrazine monohydrate (10 mL) and methanol (10 mL) was stirred at 45° C. for overnight. Methanol was removed under reduced pressure. The mixture was filtered and washed with water to give the title compound (3 mg, yield: 2%). 1H-NMR (400 MHz, CD3OD) δ (ppm): 4.88 (d, J=8.0 Hz, 1H), 5.09 (d, J=8.0 Hz, 1H), 7.01 (t, 2H), 7.21 (d, 1H), 7.36-7.40 (m, 2H), 7.47 (d, 1H), 7.59 (d, 1H), 7.65 (t, 1H), 7.74 (d, 1H); 19F-NMR (400 MHz, CD3OD) δ (ppm): −116.36 (s); LC-MS (ESI) m/z: 365 (M+1)+.

reactant | ethyl 2-(4-fluorophenyl)-4-oxo-3-(thiazol-2-yl)-1,2,3,4-tetrahydroquinoline-5-carboxylate | 180 mg | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C=1SC=CN1)=O)C(=O)OCC | C21H17FN2O3S
reactant | hydrazine monohydrate | 10 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
product | 8-(4-Fluorophenyl)-9-(thiazol-2-yl)-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 3 mg, yield: 2% | FC1=CC=C(C=C1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C=1SC=CN1 | C19H13FN4OS
